US07427612B2
rac-(5-Methanesulfonyl-2-morpholin-4-yl-phenyl)-[3-methyl-4-(4-trifluoromethyl-phenyl)-piperazin-1-yl]-methanone
(2-Iodo-5-methanesulfonyl-phenyl)-[3-methyl-4-(4-trifluoromethyl-phenyl)-piperazin-1-yl]-methanone (50 mg, 0.09 mmol) was poured into morpholine (2.0 ml) and the reaction mixture was stirred for 24 h at 100° C. before being concentrated in vacuo. The residue was then purified by column chromatography (SiO2, 20 g, Heptane/EtOAc 0-100%) to give the title compound as a light brown solid (43.5 mg, 94%). MS (m/e): 512.3 (M+H+).

reactant | (2-Iodo-5-methanesulfonyl-phenyl)-[3-methyl-4-(4-trifluoromethyl-phenyl)-piperazin-1-yl]-methanone | 0.09 mmol, 50 mg | IC1=C(C=C(C=C1)S(=O)(=O)C)C(=O)N1CC(N(CC1)C1=CC=C(C=C1)C(F)(F)F)C | C20H20F3IN2O3S
reactant | morpholine | 2.0 ml | N1CCOCC1 | C4H9NO
product | rac-(5-Methanesulfonyl-2-morpholin-4-yl-phenyl)-[3-methyl-4-(4-trifluoromethyl-phenyl)-piperazin-1-yl]-methanone | 43.5 mg, 94% | CS(=O)(=O)C=1C=CC(=C(C1)C(=O)N1CC(N(CC1)C1=CC=C(C=C1)C(F)(F)F)C)N1CCOCC1 | C24H28F3N3O4S
